US09102692B2
Synthesis of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(4,5-dibromo-1H-pyrrol-2-yl)-methanone
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4,5-dibromo-1-(4-methoxy-benzyl)-1H-pyrrol-2-yl]-methanone (317 mg) was dissolved in ethyl acetate/sulfuric acid (4/1; 5 ml). This was stirred at 80° C. for four hours. The pH of the reaction mixture was adjusted to 11 (basic) using an aqueous solution of 5 M sodium hydroxide while cooling it on ice. The reaction mixture was extracted with ethyl acetate/tetrahydrofuran (THF) (10 ml). The organic layer was washed with an aqueous solution saturated with sodium chloride (5 ml), and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol). Thus, a brown solid was obtained (135 mg, 54%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4,5-dibromo-1-(4-methoxy-benzyl)-1H-pyrrol-2-yl]-methanone | 317 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C(=C(C1)Br)Br)CC1=CC=C(C=C1)OC | C24H20Br2N6O2
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | ethyl acetate sulfuric acid | 5 ml | C(C)(=O)OCC.S(O)(O)(=O)=O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(4,5-dibromo-1H-pyrrol-2-yl)-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC(=C(C1)Br)Br | C16H12Br2N6O
